US08974920B2
n-Butyllithium in hexane (2.5 M, 15 mL) was added slowly under nitrogen to a stirred solution of (2-bromoethene-1,1,2-triyl)tribenzene (5.00 g, 14.9 mmol) in THF (50 mL) at −78° C. and then the mixture was stirred further for 1 h. Tributyl borate (11.0 mL, 40.8 mmol) was added at −78° C. before the mixture was warmed slowly to room temperature and stirred for 8 hours. Water (100 mL) was added, followed by conc. HCl (100 mL) to acidify the mixture, which was then stirred for 2 hours. The reaction mixture was extracted with EtOAc and the combined organic phases were dried over MgSO4. Concentration under reduced pressure gave 1,2,2-triphenylvinylboronic acid, which, without further purification, was reacted with pinacol (1.73 g, 14.6 mmol) in toluene under reflux for 2 hours to effect condensation by the azeotropic removal of the water formed. The mixture was concentrated under reduced pressure and the residue was purified by column chromatography (hexanes/EtOAc=20/1) to afford D (2.41 g, 65%) as white solid.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | (2-bromoethene-1,1,2-triyl)tribenzene | 14.9 mmol, 5.00 g | BrC(=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C20H15Br
reactant | Tributyl borate | 40.8 mmol, 11.0 mL | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | HCl | 100 mL | Cl | ClH
solvent | hexane | 2.5 M, 15 mL | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | 1,2,2-triphenylvinylboronic acid | C1(=CC=CC=C1)C(=C(C1=CC=CC=C1)C1=CC=CC=C1)B(O)O | C20H17BO2
